US09024027B2
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (281 mg, 0.669 mmol), 2-(6-(N-(2-morpholinoethyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid hydrochloride (350 mg, 0.803 mmol), EDC (192 mg, 1.004 mmol) and DMAP (204 mg, 1.673 mmol) were dissolved in dry DCM (8 ml), and the mixture was reacted at room temperature for 5 hours. Additional EDC (128 mg, 0.669 mmol) and DMAP (82 mg, 0.669 mmol) were added, and the reaction was stirred at the same temperature overnight. Thus, the mixture was treated with 1N HCl (30 ml) and extracted with DCM (2×100 ml). The organic phase was washed with brine and dried over Na2SO4; the solvent was removed under reduced pressure and the resulting crude was purified by flash chromatography (DCM/MeOH 98/2 to 90/10) yielding (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetoxy)ethyl)pyridine 1-oxide (203 mg, 0.253 mmol, 37.8% yield, MS/ESI+ 801.15 [MH]+, [αD]=−20.63, c=0.505, DCM). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.39 (s, 2H), 7.52 (d, 1H), 7.27 (dd, 1H), 7.22 (d, 1H), 7.20 (d, 1H), 7.11 (d, 1H), 6.97 (dd, 1H), 7.08 (t, 1H), 6.04 (dd, 1H), 4.86 (d, 1H), 4.72 (d, 1H), 3.94 (d, 2H), 3.74 (t, 2H), 3.46-3.57 (m, 4H), 3.38 (dd, 1H), 3.22 (dd, 1H), 3.09 (s, 3H), 2.22-2.44 (m, 6H), 1.16-1.31 (m, 1H), 0.50-0.66 (m, 2H), 0.28-0.46 (m, 2H).

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.669 mmol, 281 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | 2-(6-(N-(2-morpholinoethyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid hydrochloride | 0.803 mmol, 350 mg | Cl.O1CCN(CC1)CCN(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1
reactant | EDC | 1.004 mmol, 192 mg
reactant | EDC | 0.669 mmol, 128 mg
reactant | HCl | 1N, 30 ml | Cl | ClH
catalyst | DMAP | 1.673 mmol, 204 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.669 mmol, 82 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetoxy)ethyl)pyridine 1-oxide | 0.253 mmol, 203 mg, 37.8% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(OC2=C1C=CC(=C2)N(S(=O)(=O)C)CCN2CCOCC2)=O)=O)C2=CC(=C(C=C2)OC(F)F)OCC2CC2)Cl)[O-] | C34H36Cl2F2N4O10S
